US09406895B2
Step 1: Synthesis of 2,3,5-triphenylpyrazine (abbr.: Htppr)
First, 5.5 mL of a dibutyl ether solution of phenyl lithium (manufactured by Wako Pure Chemical Industries, Ltd., 2.1 mol/L) and 50 mL of diethyl ether were mixed under a nitrogen atmosphere. Then, 2.43 g of 2,3-diphenylpyrazine was dropped into this solution while the solution was being cooled with ice, and the mixture was stirred at room temperature for 24 hours. Water was added to the mixture, and the organic layer was extracted with diethyl ether. The extracted organic layer was washed with water and dried with magnesium sulfate. After the drying, an excess amount of activated manganese dioxide was added to the organic layer, and the mixture was filtered. After the solvent of the solution was distilled off, the obtained residue was recrystallized with ethanol to give a pyrazine derivative, Htppr (a yellow powder, 56% yield). The synthetic scheme of Step 1 is represented by (a-1) below.

reactant | dibutyl ether | 5.5 mL | C(CCC)OCCCC | C8H18O
reactant | phenyl lithium | 2.1 mol/L | C1(=CC=CC=C1)[Li]
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | 2,3-diphenylpyrazine | 2.43 g | C1(=CC=CC=C1)C1=NC=CN=C1C1=CC=CC=C1 | C16H12N2
solvent | Water | O | H2O
product | 2,3,5-triphenylpyrazine | 56% yield | C1(=CC=CC=C1)C1=NC=C(N=C1C1=CC=CC=C1)C1=CC=CC=C1 | C22H16N2
